US04241076
1-[3-(4-Methoxybenzyl)thio-2-trifluoromethylpropanoyl]-L-proline tert-butyl ester
A solution of 3-(4-methoxybenzyl)thio-2-trifluoromethylpropanoic acid (6.5 g.) and proline tert-butyl ester (3.76 g.) in dichloromethane (500 ml.) is stirred at 0° and treated with dicyclohexylcarbodiimide (4.53 g.) After 30 minutes at 0° and overnight at room temperature, the mixture is filtered and the filtrate is washed neutral. The organic layer is dried and concentrated to dryness in vacuo. The TLC [silica gel methylene chloride/ethyl acetate (95:5)] shows two major spots Rf 0.46 and 0.51 corresponding to the two diastereoisomers.

reactant | 3-(4-methoxybenzyl)thio-2-trifluoromethylpropanoic acid | 6.5 g | COC1=CC=C(CSCC(C(=O)O)C(F)(F)F)C=C1 | C12H13F3O3S
reactant | proline tert-butyl ester | 3.76 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | dicyclohexylcarbodiimide | 4.53 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 1-[3-(4-Methoxybenzyl)thio-2-trifluoromethylpropanoyl]-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CSCC1=CC=C(C=C1)OC)C(F)(F)F)=O)=O | C21H28F3NO4S
